US04980510
14.4 g (0.194 mol) of sodium hydrogen sulphite (NaSH·H2O) in 120 ml of N-methylpyrrolidone are introduced and the water is removed at 160° C. with nitrogen. The mixture is cooled to 100° C., 20 g (0.081 mol) of 4-(neopentylsul-phonyl)-chlorobenzene are added, and the mixture is further reacted at 125° C. for 5 hours and the solvent is distilled off under reduced pressure. The residue is dissolved in 150 ml of water and acidified at 10°-20° C. with half-concentrated hydrochloric acid. The mixture is extracted with 100 ml of methylene chloride, the organic phase is washed neutral with water, dried with magnesium sulphate, concentrated and, after addition of 50 ml of toluene, distilled at 0.1 mbar up to an inside temperature of 130° C. to give 19 g of 4-(neopentylsulphonyl)-thiophenol of boiling point: 130° C./0.1 mbar; purity by gas chromatography: 98.6%=95% of theory.

reactant | sodium hydrogen sulphite | 0.194 mol, 14.4 g | S(=O)(O)[O-].[Na+]
reactant | 4-(neopentylsul-phonyl)-chlorobenzene | 0.081 mol, 20 g | C(C(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)Cl | C11H15ClO2S
solvent | N-methylpyrrolidone | 120 ml | CN1C(CCC1)=O | C5H9NO
product | 4-(neopentylsulphonyl)-thiophenol | 19 g | C(C(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)S | C11H16O2S2
